US07166598B2
A solution of 3-methoxy-p-toluic acid (45.32 g) in tetrahydrofuran (280 ml) was added to a suspension of sodium borohydride (9.29 g) in tetrahydrofuran (45 ml) with ice bath cooling under nitrogen atmosphere. After 10 minutes stirring, boron trifuluoride diethyl etherate (41.5 ml) was added to the mixture at 3 to 15° C. and the whole was stirred at room temperature overnight. Water (210 ml) and diisopropyl ether (60 ml) were added to the mixture. The organic layer was separated and the aqueous layer was extracted with diisopropyl ether (100 ml). The combined organic layer was washed successively with 1N sodium hydroxide solution and brine, dried over sodium sulfate, and evaporated in vacuo to give 3-methoxy-4-methylbenzylalcohol (41.63 g) as an oil.

reactant | 3-methoxy-p-toluic acid | 45.32 g | COC=1C=C(C=CC1C(=O)O)C | C9H10O3
reactant | sodium borohydride | 9.29 g | [BH4-].[Na+]
reactant | boron | 41.5 ml | [B] | B
reactant | diisopropyl ether | 60 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | Water | 210 ml | O | H2O
product | 3-methoxy-4-methylbenzylalcohol | 41.63 g | COC=1C=C(CO)C=CC1C | C9H12O2
